US08058444B2
Sodium 3-(4-(pyridin-2-yloxymethyl)-phenyl)-oxiran-2-carboxylate
To a mixture of methyl 3-(4-(pyridin-2-yloxymethyl)-phenyl)-oxiran-2-carboxylate described in Preparation Example 2-1-1 (19.9 g) and ethanol (300 mL) were sequentially added sodium methoxide (14.2 mL, 28% methanol solution), water (1.3 mL), tetrahydrofuran (100 mL) at 0° C, which was stirred at room temperature for one hour. To the reaction mixture was added diethyl ether (200 mL), and the precipitated solids were filtered to obtain the title compound (14.3 g).

reactant | methyl 3-(4-(pyridin-2-yloxymethyl)-phenyl)-oxiran-2-carboxylate | N1=C(C=CC=C1)OCC1=CC=C(C=C1)C1C(O1)C(=O)OC | C16H15NO4
reactant | ethanol | 300 mL | C(C)O | C2H6O
reactant | sodium methoxide | 14.2 mL | C[O-].[Na+]
reactant | water | 1.3 mL | O | H2O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | Sodium 3-(4-(pyridin-2-yloxymethyl)-phenyl)-oxiran-2-carboxylate | 14.3 g | N1=C(C=CC=C1)OCC1=CC=C(C=C1)C1C(O1)C(=O)[O-].[Na+] | InChI=1S/C15H13NO4.Na/c17-15(18)14-13(20-14)11-6-4-10(5-7-11)9-19-12-3-1-2-8-16-12;/h1-8,13-14H,9H2,(H,17,18);/q;+1/p-1
